US07125900B2
N-(5-Acetyl-4-methyl-1,3-thiazol-2-yl)-4-bromo-5-chloro-2-thiophenesulfonamide
The title compound was prepared from 5-acety1-2-amino-4-methylthiazole (42 mg) and 4-bromo-5-chlorothiophene-2-sulfonyl chloride (80 mg) as described in the synthetic METHOD B to give a white solid (11.7 mg) with purity >90%: MS (pos) m/z 415.3, 417.3.

reactant | 5-acety1-2-amino-4-methylthiazole | 42 mg | C(C)(=O)C1=C(N=C(S1)N)C | C6H8N2OS
reactant | 4-bromo-5-chlorothiophene-2-sulfonyl chloride | 80 mg | BrC=1C=C(SC1Cl)S(=O)(=O)Cl | C4HBrCl2O2S2
product | N-(5-Acetyl-4-methyl-1,3-thiazol-2-yl)-4-bromo-5-chloro-2-thiophenesulfonamide | C(C)(=O)C1=C(N=C(S1)NS(=O)(=O)C=1SC(=C(C1)Br)Cl)C | C10H8BrClN2O3S3
